US07008950B1
5-Benzyloxy-2,4,6,7-tetramethyl-2-(4-phenyl-1-piperazinyl)methyl-2,3-dihydrobenzofuran
Using 2,4,6,7-tetramethyl-2-(4-phenyl-1-piperazinyl)methyl-2,3-dihydrobenzofuran-5-ol and benzyl bromide, the title compound was obtained in the same manner as in Example 1.

reactant | 2,4,6,7-tetramethyl-2-(4-phenyl-1-piperazinyl)methyl-2,3-dihydrobenzofuran-5-ol | CC1(OC2=C(C1)C(=C(C(=C2C)C)O)C)CN2CCN(CC2)C2=CC=CC=C2 | C23H30N2O2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 5-Benzyloxy-2,4,6,7-tetramethyl-2-(4-phenyl-1-piperazinyl)methyl-2,3-dihydrobenzofuran | Yield: 48% | C(C1=CC=CC=C1)OC=1C(=C(C2=C(CC(O2)(CN2CCN(CC2)C2=CC=CC=C2)C)C1C)C)C | C30H36N2O2
